US04518804
(B) Preparation of N-(((2,5-dichloro-4-(2-chloro-1,1,2-trifluoroethoxy)phenyl)amino)carbonyl)2,6-difluorobenzamide
A solution of 5.9 g (0.02 mole) of the above prepared 4-(2-chloro-1,1,2-trifluoroethoxy)-2,5-dichlorobenzeneamine in 100 ml toluene was placed in a 500 ml 3-necked round bottom flask fitted with a mechanical stirrer, thermometer and reflux condenser and 5.5 g (0.03 mole) of 2,6-difluorobenzoyl isocyanate was added while stirring. The temperature rose from 23° to 34° C. in a few minutes. The mixture was heated under reflux while stirring for one hour giving a clear solution which was cooled in an ice water bath. The toluene was removed by evaporation in a rotary evaporator and 25 ml acetic acid and 5 ml water were added to the residue. The resulting mixture was heated to boiling, giving a clear solution, cooled in an ice water bath and suction filtered. The filter cake obtained was washed with a little cold aqueous acetic acid and dried at room temperature. Weight, 8.5 g of white solid. m.p. 177°-179° C. The structure was verified by NMR.

reactant | 4-(2-chloro-1,1,2-trifluoroethoxy)-2,5-dichlorobenzeneamine | ClC(C(OC1=CC(=C(C=C1Cl)N)Cl)(F)F)F | C8H5Cl3F3NO
reactant | 2,6-difluorobenzoyl isocyanate | 0.03 mole, 5.5 g | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-(((2,5-dichloro-4-(2-chloro-1,1,2-trifluoroethoxy)phenyl)amino)carbonyl)2,6-difluorobenzamide | ClC1=C(C=C(C(=C1)OC(C(F)Cl)(F)F)Cl)NC(=O)NC(C1=C(C=CC=C1F)F)=O | C16H8Cl3F5N2O3
